US04338333
1-(4-Carbomethoxymethoxyphenyl)propan-2-one oxime
1-(4-Carbomethoxymethoxyphenyl)-2-nitroprop-1-ene (8.7 g) in tetrahydrofuran (100 ml) was stirred with aluminium amalgam, made in the normal way from aluminium (6 g) and mercuric chloride (3 g). The mixture was cooled in ice and stirring was continued until reaction was complete. The slurry was filtered through celite and the filtrate was evaporated to give a cream solid (7.5 g). τ(CDCl3) 8.24 (3H, s), 6.36 (2H, s), 6.24 (3H, s), 5.43 (2H, s), 3.20 (2H, d, J=8 Hz), 2.83 (2H, d, J=8 Hz), 2.5-3.4 (1H, broad, disappears with D2O).

reactant | 1-(4-Carbomethoxymethoxyphenyl)-2-nitroprop-1-ene | 8.7 g | C(=O)(OC)COC1=CC=C(C=C1)C=C(C)[N+](=O)[O-] | C12H13NO5
reactant | aluminium | 6 g | [Al] | Al
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(4-Carbomethoxymethoxyphenyl)propan-2-one oxime | 7.5 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)=NO | C12H15NO4
